* RC low-pass filter — golden fixture for simulator regression tests
* 1k resistor, 1uF capacitor, 1V step input, 5ms transient
V1 in 0 PULSE(0 1 0 1n 1n 1m 2m)
R1 in out 1k
C1 out 0 1u
.tran 10u 5m
.control
run
set filetype=ascii
write output.raw
.endc
.END